US04792561
A solution of 390 mg of a mixture of (E) and (Z) isomers of 6-[1-phenyl-2-(imidazol-1-yl)ethenyl]-3,4-dihydrocarbostyril in 10 ml of ethanol was stirred under hydrogen in the presence of 200 mg of a 10% palladium on charcoal catalyst until the theoretical amount of hydrogen had been absorbed. The catalyst was filtered off, the solvent removed from the filtrate under reduced pressure and the residue chromatographed on silica gel eluting with 5% methanol in methylene chloride, yielding 6-[1-phenyl-2-(imidazol-1-yl)ethyl]3,4-dihydrocarbostyril, having a melting point of 87°-94° C.

reactant | 6-[1-phenyl-2-(imidazol-1-yl)ethenyl]-3,4-dihydrocarbostyril | C1(=CC=CC=C1)C(=CN1C=NC=C1)C=1C=C2CCC(NC2=CC1)=O | C20H17N3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 6-[1-phenyl-2-(imidazol-1-yl)ethyl]3,4-dihydrocarbostyril | C1(=CC=CC=C1)C(CN1C=NC=C1)C=1C=C2CCC(NC2=CC1)=O | C20H19N3O
